US03985730
A solution of 10 parts of 10-[2-(diethylamino)ethyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile in a minimal amount of 2-propanol is acidified with approximately 20% hydrogen chloride dissolved in 2-propanol. Precipitation occurs. Sufficient anhydrous ether is introduced to ensure completion of the precipitation, whereupon the insoluble solids are filtered off, washed with anhydrous ether, dried in air, and recrystallized from absolute ethanol to give 10-[2-(diethylamino)ethyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile hydrochloride as a colorless solid melting at 211°-214°.

reactant | 10-[2-(diethylamino)ethyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile | C(C)N(CCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)C#N)CC | C23H29N3
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 10-[2-(diethylamino)ethyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile hydrochloride | Cl.C(C)N(CCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)C#N)CC | InChI=1S/C23H29N3.ClH/c1-4-25(5-2)16-15-23(18-24)17-19-11-7-9-13-21(19)26(6-3)22-14-10-8-12-20(22)23;/h7-14H,4-6,15-17H2,1-3H3;1H
